US08030334B2
Chlorosulfonyl isocyanate (1.63 g, 11.5 mmol) is added to a solution of 3-[bis[[(1,1-dimethylethyl)oxy]carbonyl]amino]-5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridine (0.91 g, 1.99 mmol) in acetonitrile (200 mL) and the reaction mixture is stirred for 10 min. DMF (3 mL) is added and the reaction mixture is stirred for 3 h. 20 g silica gel is added to the mixture and the solvent is removed in vacuo. The resulting solid is heated to 65° C. under high vacuum for 2 h. The mixture is cooled to room temperature and then purified by silica gel flash chromatography (dichloromethane-methanol-triethylamine, 83:8:9) to afford 2-(5-amino-pyridin-3-yl)-6-chloro-1-methyl-1H-indole-3-carbonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.76 (s, 3H), 5.72 (s, 2H), 7.15 (t, J=2.3 Hz, 1H), 7.35 (dd, J=8.5, 1.9 Hz, 1H), 7.69 (d, J=8.3 Hz, 1H), 7.92 (d, J=1.8 Hz, 1H), 7.97 (d, J=1.8 Hz, 1H), 8.12 (d, J=2.5 Hz, 1H). MS (ESI) m/z 283.0 (M+H)+.

reactant | Chlorosulfonyl isocyanate | 11.5 mmol, 1.63 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-[bis[[(1,1-dimethylethyl)oxy]carbonyl]amino]-5-(6-chloro-1-methyl-1H-indol-2-yl)-pyridine | 1.99 mmol, 0.91 g | CC(C)(C)OC(=O)N(C=1C=NC=C(C1)C=1N(C2=CC(=CC=C2C1)Cl)C)C(=O)OC(C)(C)C | C24H28ClN3O4
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(5-amino-pyridin-3-yl)-6-chloro-1-methyl-1H-indole-3-carbonitrile | NC=1C=C(C=NC1)C=1N(C2=CC(=CC=C2C1C#N)Cl)C | C15H11ClN4
